US09278950B2
Step 1. Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-Butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid (9.9 mg, 0.024 mmol), tert-butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate (8.0 mg, 0.021 mmol), and HATU (26 mg, 0.069 mmol), in DMF (0.23 mL) and THF (0.5 mL), DIPEA (0.014 mL, 0.083 mmol) was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was diluted with MeOH and H2O, filtered and purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the sub-title compound as bright yellow powder (8.0 mg, 48%). LCMS calc. for C41H50N11O5 (M+H)+: m/z=776.4. Found: 776.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid | 0.024 mmol, 9.9 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)O | C23H24N4O4
reactant | tert-butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate | 0.021 mmol, 8.0 mg | NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)NC(OC(C)(C)C)=O | C18H27N7O2
reactant | HATU | 0.069 mmol, 26 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.083 mmol, 0.014 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.23 mL | CN(C)C=O | C3H7NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-Butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate | 8.0 mg, 48% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCN(CC1)C | C41H49N11O5
